US08470847B2
6.2: (±)-2-Amino-1-ethyl-7-(3-hydroxy-3-pyrazin-2-ylbut-1-yn-1-yl)-N-methyl-4-oxo-1,4-dihydro-1,8-naphthyridine-3-carboxamide
A suspension of 1 g (3.56 mmol) of 2-amino-7-chloro-1-ethyl-N-methyl-4-oxo-1,4-dihydro[1,8]naphthyridine-3-carboxamide in 25 ml of a DMF/Et3N mixture (V/V; 2.5/1) is placed in a 10 ml microwave tube. This suspension is sparged with argon for 10 minutes and then 0.792 g of (±)-2-pyrazin-2-ylbut-3-yn-2-ol (5.34 mmol), 0.068 g of CuI (0.36 mmol) and 0.125 g of bis(triphenylphosphine) palladium(II)dichloride (0.18 mmol) are successively added.

reactant | 2-amino-7-chloro-1-ethyl-N-methyl-4-oxo-1,4-dihydro[1,8]naphthyridine-3-carboxamide | 3.56 mmol, 1 g | NC=1N(C2=NC(=CC=C2C(C1C(=O)NC)=O)Cl)CC | C12H13ClN4O2
reactant | (±)-2-pyrazin-2-ylbut-3-yn-2-ol | 5.34 mmol, 0.792 g | N1=C(C=NC=C1)C(C)(C#C)O | C8H8N2O
solvent | DMF Et3N | 25 ml | CN(C)C=O.CCN(CC)CC
catalyst | CuI | 0.36 mmol, 0.068 g | [Cu]I
catalyst | bis(triphenylphosphine) palladium(II)dichloride | 0.18 mmol, 0.125 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
product | (±)-2-Amino-1-ethyl-7-(3-hydroxy-3-pyrazin-2-ylbut-1-yn-1-yl)-N-methyl-4-oxo-1,4-dihydro-1,8-naphthyridine-3-carboxamide | NC=1N(C2=NC(=CC=C2C(C1C(=O)NC)=O)C#CC(C)(C1=NC=CN=C1)O)CC | C20H20N6O3
